US04013641
7H-INDOLO[3,2-b][1,5]BENZOXAZEPINE-6(5H)-ONE
A solution of 1.5g of 3-[o-aminophenoxy]-indole-2-carboxylic acid in 50ml of THF was treated with 1.48g of EEDQ and the clear solution left 18 hours at ambient temperature. The THF was removed by distillation, and the residue was rubbed with 2N HCl to give a yellow solid. Recrystallization from ethanol gave analytical material, mp. 233°-4°.

reactant | 3-[o-aminophenoxy]-indole-2-carboxylic acid | 1.5g | NC1=C(OC2=C(NC3=CC=CC=C23)C(=O)O)C=CC=C1 | C15H12N2O3
reactant | EEDQ | 1.48g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
solvent | THF | 50ml | C1CCOC1 | C4H8O
product | 7H-INDOLO[3,2-b][1,5]BENZOXAZEPINE-6(5H)-ONE | C1=C2C(=CC=C1)NC1=C2OC2=C(NC1=O)C=CC=C2 | C15H10N2O2
